US07446118B2
A mixture of 2-(1-benzenesulfonyl-1H-indol-5-yl)-2-phenyl-ethanol CCLXVII (1.06 g, 2.707 mmol), tert-butyldimethylchlorosilane (0.45 g, 2.978 mmol) and imidazole (200 mg, 2.978 mmol) in N,N-dimethylformamide (20 mL) was stirred at room temperature for 4 hours. The resulting mixture was diluted with water and extracted with diethyl ether. The organic layer was washed with water and brine, dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure. The crude residue was purified by flash chromatography (EtOAc/hexane, 10/90) to give 1-benzenesulfonyl-5-[2-(tert-butyl-dimethyl-silanyloxy)-1-phenyl-ethyl]-1H-indole CCLXVIII as a yellow oil.

reactant | 2-(1-benzenesulfonyl-1H-indol-5-yl)-2-phenyl-ethanol | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=CC(=CC=C12)C(CO)C1=CC=CC=C1 | C22H19NO3S
reactant | tert-butyldimethylchlorosilane | 2.978 mmol, 0.45 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | imidazole | 2.978 mmol, 200 mg | N1C=NC=C1 | C3H4N2
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-benzenesulfonyl-5-[2-(tert-butyl-dimethyl-silanyloxy)-1-phenyl-ethyl]-1H-indole | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=CC(=CC=C12)C(CO[Si](C)(C)C(C)(C)C)C1=CC=CC=C1 | C28H33NO3SSi
